US07632870B2
2-(3.5-dimethyl-4-hydroxyphenyl)-7-chloro-4H-1-benzopyran-4-one
1-[2-hydroxy-4-chlorophenyl]-3-[3,5-dimethyl-4-hydroxyphenyl]prop-2-en-1-one was dissolved in dimethylsulfoxide, an iodine crystal was added, and the mixture was kept under reflux for 10 min.

reactant | 1-[2-hydroxy-4-chlorophenyl]-3-[3,5-dimethyl-4-hydroxyphenyl]prop-2-en-1-one | OC1=C(C=CC(=C1)Cl)C(C=CC1=CC(=C(C(=C1)C)O)C)=O | C17H15ClO3
reactant | iodine | II | I2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-(3.5-dimethyl-4-hydroxyphenyl)-7-chloro-4H-1-benzopyran-4-one | CC=1C=C(C=C(C1O)C)C=1OC2=C(C(C1)=O)C=CC(=C2)Cl | C17H13ClO3
